US04112112
9-Amino-11H-pyrrolo[2,1-b][3]benzazepin-11-one (2.1 g., 11.4 mmoles) dissolved in 15 ml. pyridine is treated with acetic anhydride (2 ml.) at room temperature for 19 hours. The volatiles are removed under vacuum and the residue is dissolved in chloroform, and chromatographed on silica gel. Elution with chloroform yields 9-acetamido-11H-pyrrolo[2,1-b][3]benzazepin-11-one.

reactant | 9-Amino-11H-pyrrolo[2,1-b][3]benzazepin-11-one | 11.4 mmoles, 2.1 g | NC1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C13H10N2O
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-acetamido-11H-pyrrolo[2,1-b][3]benzazepin-11-one | C(C)(=O)NC1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C15H12N2O2
